US07915443B2
Methyl[3-(methylsulfinyl)phenyl]acetate
A solution of [3-(methylsulfinyl)phenyl]acetic acid (1.31 g, 6.60 mmol) and carbonyldiimidazole (1.18 g, 7.26 mmol) in 25.0 mL THF was stirred at room temperature for 15 minutes, then methanol (2.1 mL, 52.8 mmol) was added. After 10 minutes the reaction was briefly warmed to near reflux temperature, then allowed to cool to room temperature. After 20 minutes, the reaction was partitioned between EtOAc and NaHCO3/brine mixture. The EtOAc layer was washed with dilute brine, dilute HCl solution, brine, dried with anhydrous Na2SO4 and rotary evaporated to give the title compound as a yellow-orange oil (1.14 g, 82%).

reactant | [3-(methylsulfinyl)phenyl]acetic acid | 6.60 mmol, 1.31 g | CS(=O)C=1C=C(C=CC1)CC(=O)O | C9H10O3S
reactant | carbonyldiimidazole | 7.26 mmol, 1.18 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methanol | 52.8 mmol, 2.1 mL | CO | CH4O
solvent | THF | 25.0 mL | C1CCOC1 | C4H8O
product | Methyl[3-(methylsulfinyl)phenyl]acetate | 1.14 g, 82% | COC(CC1=CC(=CC=C1)S(=O)C)=O | C10H12O3S
